US08309580B2
(5) 3-[({4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]-2-hydroxypropanoic acid
A solution of 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]benzoic acid (141 mg), methyl 2-hydroxy-3-(methylamino)propanoate hydrochloride (61 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (69 mg), hydroxybenzotriazole monohydrate (55 mg) and triethylamine (50 μL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. To the residue were added ethanol (2 mL), tetrahydrofuran (2 mL) and 1N lithium hydroxide (0.5 mL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (107 mg, 64%).

reactant | 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]benzoic acid | 141 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)NC1=CC=C(C(=O)O)C=C1 | C27H28F3NO3
reactant | methyl 2-hydroxy-3-(methylamino)propanoate hydrochloride | 61 mg | Cl.OC(C(=O)OC)CNC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 69 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 55 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 50 μL | C(C)N(CC)CC | C6H15N
product | 3-[({4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]-2-hydroxypropanoic acid | 107 mg, 64% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)NC1=CC=C(C=C1)C(=O)N(CC(C(=O)O)O)C | C31H35F3N2O5
